* PSpice Model Editor - Version 9.2.1

*$
*b Device model created by analog_uprev for 2n2609 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n2609 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-3.3016508
+ BETA=5.74386E-4
+ LAMBDA=8.25582E-3
+ RD=58.8460378
+ RS=15.70148
+ CGD=7.55229E-12
+ CGS=7.52098E-12
+ PB=1.1037467
+ IS=2.51767E-15
+ FC=0.4
+ MODE=1
J2n2609_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  fc={FC}
+ 
.ends  awb2n2609
*
*
*$
*b Device model created by analog_uprev for 2n3909a on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n3909a D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-2.3558912
+ BETA=6.64097E-4
+ LAMBDA=8.25666E-3
+ RD=12.2822175
+ RS=8.5636219
+ CGD=6.10652E-12
+ CGS=6.07982E-12
+ PB=1.0381036
+ IS=1.32908E-14
+ FC=0.4
+ MODE=1
J2n3909a_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  fc={FC}
+ 
.ends  awb2n3909a
*
*
*$
*b Device model created by analog_uprev for 2n5114 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n5114 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-7.0
+ BETA=1.0E-3
+ LAMBDA=17.5E-3
+ RD=1.0
+ RS=1.0
+ CGD=36E-12
+ CGS=36E-12
+ PB=0.667
+ IS=100E-12
+ KF=0
+ AF=1
+ FC=0.5
+ MODE=1
J2n5114_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5114
*
*
*$
*b Device model created by analog_uprev for 2n5265 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n5265 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-2.0
+ BETA=130E-6
+ LAMBDA=3.17E-3
+ RD=10
+ RS=10
+ CGD=3.0E-12
+ CGS=3.0E-12
+ PB=0.83
+ IS=100E-12
+ KF=0
+ AF=1
+ FC=0.5
+ MODE=1
J2n5265_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5265
*
*
*$
*b Device model created by analog_uprev for 2n5460 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n5460 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-2.0
+ BETA=625E-6
+ LAMBDA=2.3E-3
+ RD=10
+ RS=10
+ CGD=3.4E-12
+ CGS=4.0E-12
+ PB=0.95
+ IS=100E-12
+ KF=2.0E-18
+ AF=0.287
+ FC=0.5
+ MODE=1
J2n5460_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5460
*
*
*$
*b Device model created by analog_uprev for 2n5461 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n5461 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-4.0
+ BETA=375E-6
+ LAMBDA=2.47E-3
+ RD=10
+ RS=10
+ CGD=3.4E-12
+ CGS=4.0E-12
+ PB=0.95
+ IS=100E-12
+ KF=2.0E-18
+ AF=0.287
+ FC=0.5
+ MODE=1
J2n5461_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5461
*
*
*$
*b Device model created by analog_uprev for 2n5462 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n5462 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-5.0
+ BETA=400E-6
+ LAMBDA=2.817E-3
+ RD=10
+ RS=10
+ CGD=3.4E-12
+ CGS=4.0E-12
+ PB=0.95
+ IS=100E-12
+ KF=2.0E-18
+ AF=0.287
+ FC=0.5
+ MODE=1
J2n5462_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5462
*
*
*$
*b Device model created by analog_uprev for 2n5463 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n5463 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-2.0
+ BETA=625E-6
+ LAMBDA=2.3E-3
+ RD=10
+ RS=10
+ CGD=3.4E-12
+ CGS=4.0E-12
+ PB=0.95
+ IS=500E-12
+ KF=2.0E-18
+ AF=0.287
+ FC=0.5
+ MODE=1
J2n5463_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5463
*
*
*$
*b Device model created by analog_uprev for 2n5464 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n5464 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-4.0
+ BETA=375E-6
+ LAMBDA=2.47E-3
+ RD=10
+ RS=10
+ CGD=3.4E-12
+ CGS=4.0E-12
+ PB=0.95
+ IS=500E-12
+ KF=2.0E-18
+ AF=0.287
+ FC=0.5
+ MODE=1
J2n5464_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5464
*
*
*$
*b Device model created by analog_uprev for 2n5465 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2n5465 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-5.0
+ BETA=400E-6
+ LAMBDA=2.817E-3
+ RD=10
+ RS=10
+ CGD=3.4E-12
+ CGS=4.0E-12
+ PB=0.95
+ IS=500E-12
+ KF=2.0E-18
+ AF=0.287
+ FC=0.5
+ MODE=1
J2n5465_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awb2n5465
*
*
*$
*b Device model created by analog_uprev for 2sj84 on Wed Feb  7 18:06:22 IST 2001
.subckt awb2sj84 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ STATE_FACTOR=0
+ VTO=-1.054
+ BETA=5.08e-3
+ LAMBDA=0.015
+ RD=0.1
+ RS=0.1
+ CGD=22p
+ CGS=22p
+ IS=1e-16
+ MODE=1
J2sj84_0 D G S model12  ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  is={IS}
+ 
.ends  awb2sj84
*
*
*$
*b Device model created by analog_uprev for idealpch on Wed Feb  7 18:06:22 IST 2001
.subckt awbidealpch D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-2.0
+ MODE=1
Jidealpch_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+ 
.ends  awbidealpch
*
*
*$
*b Device model created by analog_uprev for j174 on Wed Feb  7 18:06:22 IST 2001
.subckt awbj174 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-8.0
+ BETA=1.25E-3
+ LAMBDA=8.97E-3
+ RD=1.0
+ RS=1.0
+ CGD=16E-12
+ CGS=16E-12
+ PB=0.8
+ IS=25E-12
+ KF=0
+ AF=1
+ FC=0.5
+ MODE=1
Jj174_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awbj174
*
*
*$
*b Device model created by analog_uprev for j175 on Wed Feb  7 18:06:22 IST 2001
.subckt awbj175 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-5.0
+ BETA=1.6E-3
+ LAMBDA=4.878E-3
+ RD=1.0
+ RS=1.0
+ CGD=16E-12
+ CGS=16E-12
+ PB=0.8
+ IS=30E-12
+ KF=0
+ AF=1
+ FC=0.5
+ MODE=1
Jj175_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awbj175
*
*
*$
*b Device model created by analog_uprev for j176 on Wed Feb  7 18:06:22 IST 2001
.subckt awbj176 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-2.0
+ BETA=2.5E-3
+ LAMBDA=11.842E-3
+ RD=17
+ RS=17
+ CGD=16E-12
+ CGS=16E-12
+ PB=0.8
+ IS=35E-12
+ KF=0
+ AF=1
+ FC=0.5
+ MODE=1
Jj176_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awbj176
*
*
*$
*b Device model created by analog_uprev for j177 on Wed Feb  7 18:06:22 IST 2001
.subckt awbj177 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-1.0
+ BETA=5.0E-3
+ LAMBDA=12.1E-3
+ RD=45
+ RS=45
+ CGD=16E-12
+ CGS=16E-12
+ PB=0.8
+ IS=40E-12
+ KF=0
+ AF=1
+ FC=0.5
+ MODE=1
Jj177_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awbj177
*
*
*$
*b Device model created by analog_uprev for mpf970 on Wed Feb  7 18:06:22 IST 2001
.subckt awbmpf970 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-7.0
+ BETA=857E-6
+ LAMBDA=400E-6
+ RD=1.0
+ RS=1.0
+ CGD=14E-12
+ CGS=14E-12
+ PB=0.67
+ IS=10E-12
+ KF=0
+ AF=1
+ FC=0.5
+ MODE=1
Jmpf970_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awbmpf970
*
*
*$
*b Device model created by analog_uprev for sst174 on Wed Feb  7 18:06:22 IST 2001
.subckt awbsst174 D G S
+ params:
+ IC_VDS=0
+ IC_VGS=0
+ STATE=1
+ AREA=1.0
+ STATE_FACTOR=0
+ VTO=-7.0
+ BETA=1.0E-3
+ LAMBDA=17.5E-3
+ RD=1.0
+ RS=1.0
+ CGD=36E-12
+ CGS=36E-12
+ PB=0.667
+ IS=100E-12
+ KF=0
+ AF=1
+ FC=0.5
+ MODE=1
Jsst174_0 D G S model12 {area} ic= {UIC(ic_vds)}, {UIC(ic_vgs)} 
.model model12 pjf
+  vto={VTO}
+  beta={BETA}
+  lambda={LAMBDA}
+  rd={RD}
+  rs={RS}
+  cgd={CGD}
+  cgs={CGS}
+  pb={PB}
+  is={IS}
+  kf={KF}
+  af={AF}
+  fc={FC}
+ 
.ends  awbsst174
*
*
*$
